US06448397B1
3-Chloropropyl 1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl Ether
To a mixture of 1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-ol (0.82 g, 2.7 mmol) in dry DMF (12 mL) is added 1-bromo-3-chloropropane (1.28 g, 8.1 mmol) and potassium carbonate (1.12 g, 8.1 mmol). The mixture is heated at 80° C. for 6 h. The mixture is then stirred at room temperature for 18 h followed by another 6 h at 80° C. The mixture is partitioned between water and CH2Cl2. The organic layer is washed 3 times with water (100 mL). The organic layer is then dried over anhydrous sodium sulfate and concentrated. Column chromatography (60 mL silica) using hexanes/CH2C2 (1:1) as eluent gave an oil which is rechromatographed (60 mL silica) using hexanes/CH2C2 (60/40) as eluent gave 0.454 g (44%) of the title compound.

reactant | 1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-ol | 2.7 mmol, 0.82 g | C1(=CC=CC=C1)C1COC=2C=CC=C3C4=C(C=CC=C4N1C23)O | C20H15NO2
reactant | 1-bromo-3-chloropropane | 8.1 mmol, 1.28 g | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 8.1 mmol, 1.12 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | 3-Chloropropyl 1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl Ether | 0.454 g, 44% | C1(=CC=CC=C1)C1COC=2C=CC=C3C=4C(=CC=CC4N1C23)OCCCCl | C23H20ClNO2
